US04416985
24 g of 3β-tribenzylsilyloxy-5,6β-epoxy-7β-hydroxy-15β,16β-methylene-5β-androstan-17-one is dissolved in a mixture of 250 ml of methylene chloride, 250 ml of carbon tetrachloride, and 125 ml of pyridine and stirred with 24 g of triphenylphosphine for 3 hours. The mixture is then washed with water, dried over sodium sulfate, and concentrated under vacuum. After chromatography on silica gel with hexane-acetone, 19.8 g of 3β-tribenzylsilyloxy-7α-chloro-5,6β-epoxy-15β,16β-methylene-5β-androstan-17-one is obtained.

reactant | 3β-tribenzylsilyloxy-5,6β-epoxy-7β-hydroxy-15β,16β-methylene-5β-androstan-17-one | 24 g | C(C1=CC=CC=C1)[Si](O[C@@H]1C[C@@]23[C@@H]([C@@H]([C@H]4[C@@H]5[C@H]6[C@@H](C([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)=O)C6)O)O3)(CC3=CC=CC=C3)CC3=CC=CC=C3 | C41H48O4Si
reactant | triphenylphosphine | 24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | carbon tetrachloride | 250 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
product | 3β-tribenzylsilyloxy-7α-chloro-5,6β-epoxy-15β,16β-methylene-5β-androstan-17-one | 19.8 g | C(C1=CC=CC=C1)[Si](O[C@@H]1C[C@@]23[C@@H]([C@H]([C@H]4[C@@H]5[C@H]6[C@@H](C([C@@]5(C)CC[C@@H]4[C@]2(CC1)C)=O)C6)Cl)O3)(CC3=CC=CC=C3)CC3=CC=CC=C3 | C41H47ClO3Si
